US08440662B2
Step 3: 4-[3-(4-Bromo-2-fluoro-phenyl)-ureido]-N,N-dimethyl-benzamide
To a solution of 4-[3-(4-bromo-2-fluoro-phenyl)-ureido]-benzoic acid (0.5 g, 0.014 mol) in DMF (5 mL) N,N-dimethylamine hydrochloride (0.14 g, 0.0017 mol), HOBt (0.25 g, 0.0.0018 mol), EDC.HCl (0.41 g, 0.0021 mol) and TEA (0.4 mL, 0.0028 mol) were added. The reaction mixture was stirred at room temperature for 10 h. The reaction mixture was diluted with water and extracted with ethyl acetate (3×15 mL). The organic layer was washed with water, brine and dried over sodium sulfate. The solvent was evaporated under reduced pressure to afford the title compound [0.33 g, 65%]; LC-MS (ESI): Calculated mass: 379.0; Observed mass: 382.0 [M+H] (RT: 1.41 min).

reactant | 4-[3-(4-bromo-2-fluoro-phenyl)-ureido]-benzoic acid | 0.014 mol, 0.5 g | BrC1=CC(=C(C=C1)NC(NC1=CC=C(C(=O)O)C=C1)=O)F | C14H10BrFN2O3
reactant | DMF | 0.0017 mol, 5 mL, 0.14 g | CN(C)C=O | C3H7NO
reactant | HOBt | 0.25 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC.HCl | 0.0021 mol, 0.41 g | CCN=C=NCCCN(C)C.Cl
solvent | water | O | H2O
product | 4-[3-(4-Bromo-2-fluoro-phenyl)-ureido]-N,N-dimethyl-benzamide | 0.33 g, 65% | BrC1=CC(=C(C=C1)NC(NC1=CC=C(C(=O)N(C)C)C=C1)=O)F | C16H15BrFN3O2
